US04315009
Reaction of 2-guanidino-4-(3-aminophenyl)-oxazole with methylisothiocyanate in dimethylformamide gave 2-guanidino-4-[3-(3-methylthioureido)phenyl]oxazole having the following n.m.r. in d6DMSO: 2.8(d,4H); 3.25(s,H2O); 6.9(s,4H); 7.2-7.7(m,5H); 7.8(s,1H); 9.5(s,1H).

reactant | 2-guanidino-4-(3-aminophenyl)-oxazole | N(C(=N)N)C=1OC=C(N1)C1=CC(=CC=C1)N | C10H11N5O
reactant | methylisothiocyanate | CN=C=S | C2H3NS
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-guanidino-4-[3-(3-methylthioureido)phenyl]oxazole | N(C(=N)N)C=1OC=C(N1)C1=CC(=CC=C1)NC(=S)NC | C12H14N6OS
